US04422982
reaction of N-(hydroxymethyl)formamide with triethylphosphite with accompanying heat, to form diethyl-N-(formyl)aminomethylphosphonate,

reactant | N-(hydroxymethyl)formamide | OCNC=O | C2H5NO2
reactant | triethylphosphite | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl-N-(formyl)aminomethylphosphonate | C(C)OP(OCC)(=O)CNC=O | C6H14NO4P
